US07202255B2
Step C: Benzo[1,4]dioxin-2-yl(trimethyl)stannane
14.91 mmol of 1,4-benzodioxine are dissolved in 18 ml of anhydrous tetrahydrofuran under an anhydrous atmosphere, and the temperature of the solution is lowered to −78° C. 23.86 mmol of a 1.5M solution of n-butyllithium in hexane are added dropwise to the reaction mixture, which is stirred at −78° C. for 2 hours 15 minutes. 37.28 mmol of trimethyltin chloride dissolved in 10 ml of anhydrous tetrahydrofuran are added dropwise and the reaction mixture is stirred at −78° C. for 45 minutes and then returned to ambient temperature for 15 hours. The reaction mixture is hydrolysed with 15% aqueous potassium fluoride solution and is stirred for 45 minutes. The precipitated tin salts are removed by filtration, and the aqueous phase is extracted 3 times with ethyl acetate. The organic phases are combined and concentrated. Purification by flash chromatography over silica gel (petroleum ether/ethyl acetate: 95/5) allows the expected product to be obtained.

reactant | 1,4-benzodioxine | 14.91 mmol | O1C=COC2=C1C=CC=C2 | C8H6O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethyltin chloride | 37.28 mmol | C[Sn](C)(C)Cl
reactant | potassium fluoride | [F-].[K+]
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Benzo[1,4]dioxin-2-yl(trimethyl)stannane | O1C(=COC2=C1C=CC=C2)[Sn](C)(C)C | InChI=1S/C8H5O2.3CH3.Sn/c1-2-4-8-7(3-1)9-5-6-10-8;;;;/h1-5H;3*1H3;
